US07135600B2
i) 4-(3-Bromophenyl)but-3-yn-1-ol
A stirred, cooled solution of 1-bromo-3-iodobenzene (31 g) and 3-butyn-ol (7 ml) in acetonitrile (100 ml) and triethylamine (100 ml) was purged with nitrogen for 20 min under nitrogen. Dichlorobis(triphenylphosphine)palladium (500 mg) and cuprous iodide (800 mg) were added. The mixture was stirred for 18 h and then the solvent was removed in-vacuo. The residual oil was triturated with ethyl acetate (200 ml) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromatography on Biotage (90 g) eluting with light petroleum 40–60°-diethyl ether (3:2) to give the title compound (21 g). LCMS RT=3.26 min.

reactant | 1-bromo-3-iodobenzene | 31 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | 3-butyn-ol | 7 ml | C(CC#C)O | C4H6O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
product | 4-(3-Bromophenyl)but-3-yn-1-ol | 21 g | BrC=1C=C(C=CC1)C#CCCO | C10H9BrO
